US05077329
Didodecyl P-[α-(N-Benzyl-N-dodecyloxyamino)benzyl]phosphonate
A mixture of 5.0 g (23 mmol) of N-benzylidenebenzylamine N-oxide, 17.6 g (30 mmol) of tri-n-dodecyl phosphite and 29.6 g (100 mmol) of n-dodecyl iodide is heated at 70° C. for 24 hours. The reaction mixture is concentrated in vacuo and the residue is purified by HPLC (4:1 hexane:ethyl acetate eluent) followed by flash chromatography (methylene chloride eluent) to give 5.1 g (28% yield) of the title compound as a white solid melting at 38°-40° C.

reactant | N-benzylidenebenzylamine N-oxide | 23 mmol, 5.0 g | C(C1=CC=CC=C1)=[N+](CC1=CC=CC=C1)[O-] | C14H13NO
reactant | tri-n-dodecyl phosphite | 30 mmol, 17.6 g | P(OCCCCCCCCCCCC)(OCCCCCCCCCCCC)OCCCCCCCCCCCC | C36H75O3P
reactant | n-dodecyl iodide | 100 mmol, 29.6 g | C(CCCCCCCCCCC)I | C12H25I
product | Didodecyl P-[α-(N-Benzyl-N-dodecyloxyamino)benzyl]phosphonate | 5.1 g, 28% yield | C(C1=CC=CC=C1)N(OCCCCCCCCCCCC)C(C1=CC=CC=C1)P(OCCCCCCCCCCCC)(OCCCCCCCCCCCC)=O | C50H88NO4P
